US08609653B2
To a solution of 1-(3,4-difluorobenzyl)-4-iodo-6-methyl-1H-pyrrolo[2,3-b]pyridine-5-carbaldehyde (3.05 g, 6.29 mmol) in DCM (85 mL) at 0° C. was added zinc iodide (4.02 g, 12.58 mmol) followed by TMSCN (3.37 mL, 25.2 mmol) and the mixture was stirred at 0° C. for 5 min and then at RT for 30 min. The mixture was diluted with DCM and washed with cold water, dried (Na2SO4) and concentrated. The residue was cooled to 0° C. and MeOH (85 mL) was added followed by dropwise addition of sulfuric acid (16.09 mL, 302 mmol). The mixture was stirred at 80° C. for 26 h, cooled to 0° C. and saturated NaHCO3/water was added slowly followed by solid NaHCO3. The mixture extracted with EtOAc and washed with water, brine, dried (Na2 SO4), concentrated, dried in vacuo to provide methyl 2-(1-(3,4-difluorobenzyl)-4-iodo-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-hydroxyacetate (3.68 g, 6.23 mmol, 99% yield) as a thick yellowish oil. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 2.70 (s, 3 H), 3.47 (br s, 1 H), 3.81 (s, 3 H), 5.42-5.59 (m, 2H), 5.91 (s, 1 H), 6.41 (d, J=3.52 Hz, 1H), 6.93-7.22 (m, 3 H); LCMS (m/z) ES+=473 (M+1).

reactant | 1-(3,4-difluorobenzyl)-4-iodo-6-methyl-1H-pyrrolo[2,3-b]pyridine-5-carbaldehyde | 6.29 mmol, 3.05 g | FC=1C=C(CN2C=CC=3C2=NC(=C(C3I)C=O)C)C=CC1F | C16H11F2IN2O
reactant | TMSCN | 25.2 mmol, 3.37 mL | [Si](C)(C)(C)C#N | C4H9NSi
reactant | sulfuric acid | 302 mmol, 16.09 mL | S(O)(O)(=O)=O | H2O4S
reactant | NaHCO3 water | C(=O)(O)[O-].[Na+].O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 85 mL | C(Cl)Cl | CH2Cl2
catalyst | zinc iodide | 12.58 mmol, 4.02 g | [I-].[Zn+2].[I-]
product | methyl 2-(1-(3,4-difluorobenzyl)-4-iodo-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-hydroxyacetate | 6.23 mmol, 3.68 g, 99% yield | FC=1C=C(CN2C=CC=3C2=NC(=C(C3I)C(C(=O)OC)O)C)C=CC1F | C18H15F2IN2O3
